Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
2 weeks of ascending lower extremity sensory loss, 2 days of 
upper extremity numbness and tingling, ___ days of urinary 
retention
 
Major Surgical or Invasive Procedure:
Lumbar puncture 
 
History of Present Illness:
The patient is a ___ woman with a past medical history 
of transverse myelitis in ___ who presents as a transfer from 
___ for ascending sensory changes over the past 2 weeks. 
Patient reports that starting on ___ she began 
experiencing bilateral numbness and paresthesias in the bottom 
of her feet. She describes a sensation as if her feet had fallen 
asleep and she changed position, and she felt the blood rushing 
back into her feet. She has continued to experience a sensation 
for the past 2 weeks, and although it waxes and wanes in 
severity it is always present. This progressed over the 
following 2 days to involve to below her knees. She did not seek 
medical attention at this time, but the sensory changes continue 
to progress, and she noticed on ___, she could no 
longer feel the toilet paper when wiping after going to the 
bathroom. She sought medical attention at ___, 
which is where she was treated for her prior attack of 
transverse myelitis in ___. There, they did an MRI of her brain 
and lumbar spine due to the low back pain she was experiencing 
ongoing to the hospital. There is no evidence of active 
demyelinating disease on the MRI with contrast, but there were 
noted for new foci of T2 signal hyperintensity in the white 
matter in the right frontal and parietal lobes. In the lumbar 
spine, there were no enhancing lesions. There was mild 
degenerative joint disease at L4-5 and L5-S1. She was treated 
with IV methylprednisolone 1g daily; two of the infusions she 
received in the ED and the subsequent 3 she received at the 
___ from ___. The discharge summary from 
___ says that she was given Ocrelizumab in the infusion 
center at ___ but dose and duration is unclear. 
Over the weekend, her symptoms have progressed. She now has more 
severe pain in the bilateral hips and low back, and her pain is 
now progressed to both arms. She is also experiencing sensory 
changes in the bilateral arms that progressed over the weekend, 
which she describes as a pricking sensation. The sensory changes 
in her legs that she is experiencing she describes as swollen 
and tight skin.

On ___ at work, patient reported that she noticed that she was 
having a hard time tearing paper at work at Target. She felt 
that her hands were weak, and that she could not do a routine 
and simple task. She became very anxious about this, and she 
said that she was having a hard time expressing to her boss what 
she was experiencing. She is not sure if she was having a hard 
time expressing herself because of her anxiety.

After her current symptoms and her steroid infusion, the made an 
appointment with neurology but it was not until ___. When 
making the appointment, they were told to present to the ED if 
her symptoms worsen, which they did over this past weekend. The 
patient went to ___ for neurologic evaluation, but 
on arrival to ___ there was no neurology available. In the 
ED, the patient was retaining urine and was straight cathed 
once, and then was given Zofran and fentanyl for pain prior to 
transfer. In the ED here, she continued to retain urine and a 
Foley catheter was placed.

In terms of her prior transverse myelitis, she says that ___ years 
ago in ___ she experienced a burning sensation of her right arm 
and itching following it, followed by complete numbness of her 
right arm. She went to ___, where she had a lumbar 
puncture and MRI of her brain and spine. She was diagnosed with 
transverse myelitis and does not remember exactly what she was 
treated with. She has seen a neurologist at ___ 
but not recently, and is not maintained on any medications. 

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with 
comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies loss of sensation. Denies bowel or bladder 
incontinence (but did sneeze ___ and leaked a small amount of 
urine but this did not happen ___ and no complete 
incontinence). Has the urge to urinate/defecate appropriately. 

Endorses urinary retention, right eye blurriness (chronic). 
Endorses SOB over the weekend intermittently but not currently.

Patient had the flu shot at some point in ___. Also was 
around nephew who had chicken pox around the same time but did 
not develop any subsequent illnesses. 

On general review of systems, the pt denies recent fever or 
chills. Denies cough. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No dysuria. Denies arthralgias or myalgias
 
Past Medical History:
Hypothyroidism 
One episode of transverse myelitis (___) - effectively treated 
with steroids
 
Social History:
___
Family History:
Dad's family has spine issues but no MS  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 Vitals: T: 98.5 HR 78 BP 116/84 RR 18 SaO2 100% RA
NIF -50 VC 3L
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, negative Lhermettes sign 
 Pulmonary: breathing comfortably on room air
 Cardiac: good peripheral perfusion 
 Abdomen: soft, NT/ND
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to examiner. Language is fluent
with intact comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. There was no evidence of
neglect.

-Cranial Nerves:
 II, III, IV, VI: RAPD on the right. Pupils 4-->2 bilaterally.
Normal saccades. No red desaturation. 
 V: Facial sensation intact to light touch and pinprick
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
 L  5    ___   ___   5    5  5     5     5   
 R  5    ___   ___  5    5  5     5     5   
Movement of the RLE in particular causes patient very 
significant
pain limiting her strength. 

-Sensory: Decreased pinprick in the right forearm (intact in
right hand and palm), left palm decreased. Decreased at the 
ankle
on the left, increased at the top of the foot on the right. No
deficits to light touch. Decreased pp at T4 on the left and T3 
on
the right.  Proprioception intact. 

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2+  1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred due to pain

DIACHARGE PHYSICAL EXAMINATION

Vitals: 
--------
___ 1115 Temp: 97.8 PO BP: 114/75 HR: 97 RR: 18 O2 sat: 96%
O2 delivery: Ra 
___ 0853 Dyspnea: 0 RASS: 0 Pain Score: ___  

General: Awake, cooperative, pleasant. NAD, able to move
independently without discomfort. 
HEENT:NC/AT, sclera anicteric. 
Pulmonary: Breathing comfortably on room air. Speaking in full
sentences without difficulty. 
Cardiac: good peripheral perfusion, regular rate and rhythm. HR
of 80 bpm while sitting.
Abdomen: non distended, bowel sounds present in all 4 quadrants 
Extremities: no ___ edema
Skin: no rashes or lesions noted
Rectal: no masses palpated, no active bleeding or clots 

Neurologic:
-----------
-Mental Status: Alert, oriented. Able to relate history
without difficulty. Attentive to examiner. Language is fluent
with intact comprehension. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. No evidence of neglect.

-Cranial Nerves: Facial expressions symmetric, EOMI, PEERLA 

-Motor: Normal bulk, tone throughout. No adventitious movements,
such as tremor, noted. No asterixis noted. Able to move
independently without difficulty.

-Sensory: Sensation reduced to ~50% on R foot dorsum, ~75% on L
foot dorsum. Sensation ~75% on L leg, and R anterior leg. 50% on
R midline and lateral leg. Sensation elsewhere consistent with
yesterday's examination: sensation in dorsum of both hands is
impaired with L impairment > R impairment. Intact bilaterally
along chest, abdomen, and upper arms. 

-DTR's: deferred 

-___: deferred
-Gait: mildly Wide-based gait with normal length stride. 
improved
from prior, R leg more straight than L but
patient can flex R knee on command- attributes her gait to R
sided "stiffness". Romberg sign negative 

 
Pertinent Results:
ADMISSION LABS
===============
___ 08:49PM BLOOD WBC-13.4* RBC-4.13 Hgb-12.6 Hct-37.4 
MCV-91 MCH-30.5 MCHC-33.7 RDW-12.8 RDWSD-42.0 Plt ___
___ 08:49PM BLOOD Neuts-57.9 ___ Monos-7.3 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-7.77* AbsLymp-4.28* AbsMono-0.98* 
AbsEos-0.07 AbsBaso-0.03
___ 08:49PM BLOOD Glucose-79 UreaN-12 Creat-0.7 Na-139 
K-4.0 Cl-100 HCO3-26 AnGap-13
___ 08:49PM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.9 Mg-2.4

IMPORTANT INTERVAL LABS 
========================
___ 08:48AM BLOOD VitB12-280
___ 08:48AM BLOOD TSH-3.2
___ 06:45AM BLOOD ANCA-NEGATIVE B
___ 06:45AM BLOOD dsDNA-NEGATIVE
___ 04:18AM BLOOD CRP-13.4*
___ 08:48AM BLOOD ___

SM ANTIBODY 
  ___                          Result              Reference 
Range/Units
SM ANTIBODY                   <1.0 NEG            <1.0 NEG AI
 RNP ANTIBODY 
  ___                          Result              Reference 
Range/Units
RNP ANTIBODY                  <1.0 NEG            <1.0 NEG AI
 
ANGIOTENSIN 1 - CONVERTING ___ 
  ___                          Result              Reference 
Range/Units
ANGIOTENSIN-1-CONVERTING      25                  ___ U/L
ENZYME                   
SED RATE 
  ___                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 20 mm/h
___     
 RO & ___ 
  ___                          Result              Reference 
Range/Units
SJOGREN'S ANTIBODY (SS-A)     <1.0 NEG            <1.0 NEG AI
SJOGREN'S ANTIBODY (SS-B)     <1.0 NEG            <1.0 NEG AI
 
METHYLMALONIC ACID 
  ___                          Result              Reference 
Range/Units
METHYLMALONIC ACID            ___                 87-318 nmol/L
 
NMO/AQP4 serum: Negative 
NMP/AQP4 CSF: Negative 
MOG IgG: Negative 
MS profile: 8 Oligoclonal bands
CSF cytology: Negative for malignant cells, small lymphocytes 

ANGIOTENSIN 1 CONVERTING ENZYME CSF 
  ___                          Result              Reference 
Range/Units
ANGIOTENSIN CONVERTING        3                   <=15 U/L
ENZYME (ACE), CSF           

CSF 
___ 02:55PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-1 Polys-1 
___ ___ 02:55PM CEREBROSPINAL FLUID (CSF) TotProt-36 Glucose-78

Imaging 
=======
CT chest 
CHEST PERIMETER: No findings in the lower portion of the 
partially imaged 
thyroid require any further imaging evaluation.  Supraclavicular 
and axillary lymph nodes are not enlarged.  Evaluation of the 
breasts is reserved for mammography.  Elsewhere there are no 
soft tissue abnormalities in the chest wall of note. 
  
This study is not designed for subdiaphragmatic diagnosis but 
shows no adrenal or ___ upper abdominal abnormality. 
  
CARDIO-MEDIASTINUM:Esophagus is unremarkable.  Atherosclerotic 
calcification is not apparent in head and neck or coronary 
arteries.  Aorta and pulmonary arteries and cardiac chambers are 
normal size.  Pericardial effusion is small. Infiltration of 
epicardial fat is indeterminate on this non gated study.  There 
are no findings to suggest tamponade physiology. 
  
THORACIC LYMPH NODES: Thoracic lymph nodes are not 
pathologically enlarged, ranging in diameter up to 7 mm in the 
right hilum. 
  
LUNGS, AIRWAYS, PLEURAE: Focal pulmonary abnormalities:   
Approximately a dozen 2-4 mm nodules, with varying degrees of 
associated 
ground-glass halos, including right upper lobe, 5:118, 133, 136, 
139, right middle lobe, 5: 163, 173, 188, left upper lobe, 5:73, 
122, left lower lobe, 5:215, 221. 
  
Tracheobronchial tree is normal to subsegmental levels.  There 
is no 
consolidation or cavitation.  Pleural surfaces are normal. 
  
CHEST CAGE: Unremarkable. 
  
IMPRESSION:    
Approximately a dozen small lung nodules with surrounding edema 
or hemorrhage. Differential diagnosis includes infection, either 
viral, septic/bacterial, and fungal, as well as micro 
vasculitis, including ___. 

MRI C and T spine w/ and w/o 
Sagittal imaging was performed with T2, T1, and STIR technique.  

Axial T2 imaging was performed. Axial GRE images of the cervical 
spine were performed.  After the uneventful administration of 
Gadavist contrast agent, additional axial and sagittal T1 images 
were obtained. 
  
COMPARISON:  Chest radiograph dated ___ 
  
FINDINGS:   
CERVICAL: 
Alignment is normal. Vertebral body and intervertebral disc 
signal intensity appear normal. The spinal cord appears normal 
in caliber and configuration.  There are multiple foci of mild 
spinal cord T2/FLAIR hyperintensity, including at C1-2, C4-5, 
C6-7 (14:2, 12, 23).  There is no evidence of spinal canal or 
neural foraminal narrowing. There is no evidence of infection or 
neoplasm.  There is no abnormal enhancement after contrast 
administration. 
  
THORACIC: 
Alignment is normal. Vertebral body and intervertebral disc 
signal intensity appear normal. The spinal cord appears normal 
in caliber and 
configuration.There are multiple foci of mild spinal cord 
T2/FLAIR 
hyperintensity at T1-2 and T7-8 (13:2, 29), without expansion, 
and with 
minimal postcontrast enhancement at T7-8 (08:30).   There is no 
evidence of spinal canal or neural foraminal narrowing. There is 
no evidence of infection or neoplasm.  There is no abnormal 
enhancement after contrast administration. 
  
LUMBAR: 
Alignment is normal. Vertebral body and intervertebral disc 
signal intensity appear normal. The spinal cord appears normal 
in caliber and 
configuration.There is a mild posterior disc bulge at L4-5 and 
L5-S1, with 
minimal spinal canal narrowing.  No neural foraminal 
narrowing.There is no 
evidence of infection or neoplasm.  There is no abnormal 
enhancement after 
contrast administration. 
  
___: There is mild edema within the posterior subcutaneous 
soft tissues 
overlying the lumbar spine. There are multiple bilateral subtle 
T2 hyperintense nodules throughout the bilateral lungs, 
measuring up to 9 mm, (for example, 13:8, 15, 19, 24, 27). 
  
IMPRESSION:  
1. Mild multifocal T2/FLAIR hyperintensities within the cervical 
and thoracic spinal cord are suggestive of demyelinating 
disease. 
2. Scattered bilateral subtle T2 hyperintense nodules noted 
throughout the 
lungs bilaterally are incompletely evaluated.  This can be 
correlated with 
prior imaging if it becomes available.  Otherwise, CT chest can 
be performed for further evaluation. 
  
RECOMMENDATION(S):  In the absence of prior imaging for 
comparison, CT chest could be performed for further evaluation 
of incidentally noted bilateral subcentimeter lung nodules. 

MRI Brain w/ and w/o 
There is a small focus of white matter FLAIR signal 
hyperintensity in the 
posterior right centrum semiovale which demonstrates faint 
enhancement (11:17 and 13:17). 
  
There is no evidence of infarction, hemorrhage, edema, mass, or 
mass effect.  The pineal gland is prominent, likely upper limits 
of normal. Major intracranial vascular flow voids are preserved. 
 The ventricles and sulci are normal in caliber and 
configuration. 
  
Major dural venous sinuses are patent.  The globes and orbits 
are 
unremarkable. The visualized paranasal sinuses and mastoids 
appear clear. 
  
IMPRESSION:   
Solitary subcentimeter focus of white matter FLAIR 
hyperintensity in the right centrum semiovale demonstrates faint 
enhancement. This could represent a demyelinating plaque in this 
patient with history of transverse myelitis; enhancement is 
non-specific but could reflect a component of recently or 
currently active demyelination. 
  

 
Brief Hospital Course:
Ms. ___ was admitted on ___ with ~2 weeks of sensory 
symptoms. She had been treated at ___ ~1 week 
prior to admission with a course of steroids which failed to 
prevent further progression of her sensory loss. 

#Ascending sensory changes: Due to prior transverse myelitis 
there was concern for active demyelinating process. She had LP 
done that showed revealed WBC, RBC, protein, and glucose within 
normal limits. MRI w/ contrast showed non-specific spot of flair 
hyper-intensity in right centrum smiovale with faint enhancement 
that could represent demyelinating lesion. MRI spine with 
contrast showed multiple areas of T2/Flair hyperintensity at 
C1-2, C4-5, C6-7, T1-2 and T7-8 with minimal postcontrast 
enhancement at T7-8 suggestive of demyelinating disease. Most 
likely autoimmune recurrent TM. MS, NMO or ___ autoimmune 
syndrome are possible. Lung nodules raise the possibility of a 
microvasculitis. Vasculitis with pulmonary and
CNS involvement ___ or Wegeners) but no elevation of 
eosinophils or renal involvement. Workup was notable for 8 
oligoclonal bands that is suggestive of autoimmune demyelinating 
disorder such as MS. ___ workup was notable for normal TSH, 
B12 280CRP 13.2, ESR 2, CK 23, CSF cytology was negative for 
malignant cells. ___ and RPR were negative. Pending at time of 
discharge was ANCA, dsDNA, ___, anti-RNP, ACE, MOG IgG, 
NMO IgG serum. From CSF pending labs were ACE and NMO. She had 
completed 5 days of steroids and sensory symptoms improved 
during hospitalization without repeat immunosuppression. She was 
started on Vitamin D prior to discharge. 

#Pulmonary Nodules: 
The MRI spine revealed an incidental finding of nodules in the 
lungs, followed-up with CT chest with contrast. CT scan was 
notable for ~12 nodules of 2-4 mm each with ground glass halos. 
Reviewed imaging with Pulmonology who felt that these were too 
small to biopsy and patient could follow up with repeat CT in 
___ weeks to evaluate for any progression of nodules. 
Rheumatology was consulted and suggested sending workup for 
microvasculitis though patient did not have any ___ signs of 
symptoms of vasculitis. In addition, patient had no signs or 
symptoms of infections etiology. Also liaisons were not typical 
of sarcoid but this was considered as well. She will follow up 
with pulmonology in ___ weeks for repeat CT chest. 

___ bleeding: 
During hospitalization she developed small amount of ___ 
painless bleeding. She was briefly on PPI due to prior steroids 
and worry about possible rapid Upper GIB, but vitals remained 
stable and Hgb was overall stable with mild fluctuations. CT 
chest showed diverticulosis which can cause GIB but usually this 
is much larger bleeds and her presentation was not felt to be 
consistent with this. She continued to have minor spotting of 
blood on pad but no large bleeding. Rectal exam was negative for 
any rectal mass. Discussed with GI and felt that this was 
consistent with internal hemorrhoids. She will follow up with 
PCP who was called and given warm handoff of patient. 

#Hypothyroid: continued on home levothyroxine 

Transitional Issues 
=====================
[] f/u CSF ACE, NMO 
[] f/u serum Anti ___, RNP, ACE, MOG, ANCA, and dsDNA and NMO 
[] please check Vitamin D level 
[] monitor for recurrence of ___ bleeding 
[] patient will need repeat CT in ___ weeks prior to Pulmonology 
appointment. PCP ___ need to place referral for CT chest with 
contrast. Needs to be done prior to ___
[] f/u with primary Neurologist 
[] f/u with Neuroimmunology at BI 

#Contact: ___ 
Relationship: ___ 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-25 mcg oral 
DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
3.  Levothyroxine Sodium 75 mcg PO DAILY  
4.  norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-25 mcg 
oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Demyelinating disease of CNS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___! 

Why were you admitted? 
- You were admitted because you were having tingling in your 
body. 

What happened while you were here? 
- These findings are suggestive of an inflammatory or autoimmune 
disease in your central nervous system such as MS. ___ diagnosis 
is not confirmed yet but you will follow up with a neurology who 
deals specifically with these diseases. 

What should you do when you get home? 
- We are working on getting you an appointment with a 
Neuroimmunologist at ___. We will call you when this appointment 
is set up
-Follow up with outpatient neurologist (Dr. ___ repeat chest CT scan in ___ weeks to monitor lung nodules- 
your PCP ___ need to place this referral for CT chest with 
contrast to be done at ___ before ___. 

 
Followup Instructions:
___